US07994209B2
3-(Cyclopentylhydroxymethyl)pyrrolidine-1-carboxylic Acid t-Butyl Ester
3-Cyclopentanecarbonyl-2-oxopyrrolidine-1-carboxylic acid t-butyl ester (1.2 g, 4.4 mmol) was dissolved in THF (3.5 mL, 43.7 mmol) under nitrogen. 2M BH3.Me2S in THF (6.6 mL, 13.1 mmol) was added via syringe over 15 minutes. The mixture was stirred at room temperature for 1 hour, then heated at 65° C. for 24 hours. After an additional 48 hours, the mixture was placed on an ice bath and the reaction slowly quenched with cold MeOH (100 mL). The mixture was stirred for 15 minutes, then diluted with EtOAc (30 mL), and washed with saturated aqueous NaHCO3 (2×50 mL). The organic layer was dried over Na2SO4, filtered, and concentrated by rotary evaporation to yield a yellow oil (300 mg). The oil was purified by preparative HPLC (2″ column; 5-50% MeCN/H2O; 0.1% TFA buffer; at 40 mL/min over 80 minutes). The desired fractions were collected, frozen and lyophilized to yield the title compound (939 mg). MS m/z: [M+H]+ calcd for C15H27NO3, 269.3; found 270.4.

reactant | 3-Cyclopentanecarbonyl-2-oxopyrrolidine-1-carboxylic acid t-butyl ester | 4.4 mmol, 1.2 g | C(C)(C)(C)OC(=O)N1C(C(CC1)C(=O)C1CCCC1)=O | C15H23NO4
reactant | THF | 43.7 mmol, 3.5 mL | C1CCOC1 | C4H8O
reactant | Me2S | S(C)C | C2H6S
reactant | THF | 13.1 mmol, 6.6 mL | C1CCOC1 | C4H8O
product | 3-(Cyclopentylhydroxymethyl)pyrrolidine-1-carboxylic Acid t-Butyl Ester | 300 mg | C(C)(C)(C)OC(=O)N1CC(CC1)C(O)C1CCCC1 | C15H27NO3
